US07361765B2
reacting tetrahydro-4H-pyran-4-one with tripropylorthoformate and chlorobenzene to form 4-propoxytetrahydro-2H-pyran-ethene;

reactant | tetrahydro-4H-pyran-4-one | O1CCC(CC1)=O | C5H8O2
reactant | tripropylorthoformate | C(CC)OC(OCCC)OCCC | C10H22O3
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 4-propoxytetrahydro-2H-pyran ethene | C(CC)OC1CCOCC1.C=C | InChI=1S/C8H16O2.C2H4/c1-2-5-10-8-3-6-9-7-4-8;1-2/h8H,2-7H2,1H3;1-2H2
